T1 (vdd! net22 net22 0) pfet L=5.85E-6 W=9.93E-6
C2 (net15 net7) C=1.4E-5
T3 (net31 net24 net24 0) pfet L=7.83E-6 W=7.55E-6
T4 (net33 0 0 0) nfet L=3.96E-6 W=4.10E-6
T5 (net3 net21 net21 0) pfet L=4.75E-6 W=7.88E-6
C6 (net8 net14) C=2.3E-9
R7 (net23 net27) R=6.1E3
T8 (net3 net31 net31 0) pfet L=4.93E-6 W=9.74E-6
C9 (net11 net26) C=0.4E-11
R10 (net21 net17) R=1.0E6
R11 (0 net26) R=5.8E0
R12 (0 net17) R=7.3E2
C13 (0 net37) C=5.1E-7
T14 (net8 0 0 0) pfet L=5.09E-6 W=7.03E-6
C15 (net6 net30) C=4.5E-12
T16 (vdd! net8 net8 0) pfet L=1.31E-6 W=5.32E-6
R17 (net34 net39) R=7.5E1
R18 (net2 net21) R=6.1E6
R19 (net15 net21) R=7.1E3
T20 (net7 net39 net39 0) pfet L=5.40E-6 W=0.84E-6
R21 (net27 net34) R=1.8E0
C22 (net5 net8) C=9.2E-14
T23 (net11 net13 net13 0) pfet L=4.15E-6 W=9.36E-6
C24 (net1 net4) C=10.0E-9
T25 (vdd! net13 net13 0) nfet L=3.29E-6 W=8.62E-6
R26 (net40 net37) R=1.3E1
R27 (net33 net15) R=1.4E1
R28 (net10 net9) R=8.5E5
R29 (net31 net16) R=3.8E6
T30 (net40 0 0 0) pfet L=4.99E-6 W=0.22E-6
T31 (net1 net37 net37 0) pfet L=3.40E-6 W=5.54E-6
T32 (net16 net15 net15 0) nfet L=8.49E-6 W=5.88E-6
C33 (vdd! net27) C=9.2E-12
T34 (net36 vdd! vdd! 0) nfet L=8.78E-6 W=9.13E-6
T35 (net5 net24 net24 0) nfet L=9.55E-6 W=3.73E-6
C36 (0 net32) C=3.3E-11
T37 (net29 net35 net35 0) pfet L=4.82E-6 W=6.77E-6
C38 (0 net34) C=2.4E-7
T39 (0 net14 net14 0) nfet L=4.79E-6 W=8.53E-6
R40 (net28 net13) R=2.8E1
T41 (net5 vdd! vdd! 0) nfet L=2.70E-6 W=5.46E-6
C42 (net36 net40) C=2.4E-8
T43 (net40 net38 net38 0) nfet L=5.00E-6 W=8.06E-6
T44 (net37 net39 net39 0) nfet L=4.67E-6 W=2.75E-6
T45 (net38 net18 net18 0) pfet L=6.25E-6 W=3.66E-6
R46 (net23 0) R=4.0E2
R47 (net8 net35) R=6.4E0
R48 (net25 net35) R=8.4E5
R49 (net10 net8) R=3.8E5
T50 (net12 net12 net12 0) pfet L=4.02E-6 W=3.49E-6
C51 (net19 net31) C=6.3E-5
T52 (net23 net18 net18 0) pfet L=8.36E-6 W=6.83E-6
C53 (0 net25) C=0.6E-14
R54 (net22 net30) R=2.1E6
C55 (net2 net30) C=0.8E-11
T56 (net1 net27 net27 0) pfet L=1.60E-6 W=6.23E-6
C57 (net32 net30) C=3.3E-14
T58 (net26 net10 net10 0) pfet L=5.56E-6 W=6.57E-6
R59 (net4 net34) R=1.8E4
T60 (net10 net12 net12 0) nfet L=0.47E-6 W=8.84E-6
R61 (net23 net22) R=3.9E0
R62 (net5 net23) R=9.8E5
T63 (net6 net27 net27 0) pfet L=8.63E-6 W=3.32E-6
T64 (net20 net12 net12 0) nfet L=1.52E-6 W=4.32E-6
C65 (net3 net17) C=4.9E-10
T66 (net12 net12 net12 0) nfet L=7.44E-6 W=2.85E-6
R67 (net33 net4) R=7.0E0
T68 (net26 vdd! vdd! 0) nfet L=5.15E-6 W=5.27E-6
R69 (net26 net11) R=3.3E0
C70 (net7 net21) C=8.2E-14
T71 (net33 net21 net21 0) nfet L=5.43E-6 W=3.60E-6
T72 (net39 net12 net12 0) pfet L=5.36E-6 W=6.60E-6
T73 (net12 net14 net14 0) nfet L=9.10E-6 W=2.92E-6
C74 (net10 net26) C=9.7E-7
T75 (net37 net9 net9 0) pfet L=9.54E-6 W=7.12E-6
R76 (net23 net34) R=4.3E1
C77 (net14 0) C=7.3E-5
C78 (net32 net16) C=6.7E-14
R79 (net21 net1) R=8.6E0
T80 (net38 net12 net12 0) nfet L=1.58E-6 W=1.38E-6
T81 (net38 net28 net28 0) pfet L=7.25E-6 W=3.48E-6
T82 (net9 net25 net25 0) nfet L=3.80E-6 W=8.18E-6
C83 (vdd! net5) C=7.0E-11
C84 (net22 net21) C=0.5E-7
R85 (net7 net33) R=6.5E6
C86 (vdd! net19) C=5.2E-8
C87 (net39 vdd!) C=2.3E-9
C88 (net40 net1) C=5.4E-7
C89 (net7 net21) C=4.2E-9
T90 (net24 net37 net37 0) pfet L=8.04E-6 W=9.44E-6
C91 (vdd! net21) C=7.5E-10
T92 (net12 vdd! vdd! 0) pfet L=3.74E-6 W=7.38E-6
C93 (net35 net5) C=7.7E-12
C94 (net22 net40) C=8.5E-14
T95 (net19 net24 net24 0) nfet L=4.40E-6 W=9.15E-6
C96 (net3 net15) C=9.4E-9
C97 (net28 net19) C=6.3E-14
T98 (net39 net7 net7 0) pfet L=6.26E-6 W=4.69E-6
C99 (net35 net26) C=4.0E-14
T100 (net19 net38 net38 0) nfet L=1.23E-6 W=2.47E-6
R101 (net7 net19) R=1.2E4
R102 (net39 net26) R=8.1E2
R103 (net10 net13) R=4.9E6
C104 (0 net15) C=0.8E-7
R105 (net4 net29) R=5.6E4
C106 (net22 net16) C=2.0E-12
C107 (net21 net32) C=0.4E-7
R108 (net8 net1) R=7.6E5
C109 (net28 0) C=8.1E-14
T110 (net4 net32 net32 0) pfet L=5.17E-6 W=9.53E-6
C111 (net12 net15) C=3.7E-6
C112 (net4 net36) C=4.4E-13
T113 (net21 net32 net32 0) nfet L=8.34E-6 W=4.31E-6
T114 (net15 net37 net37 0) nfet L=3.18E-6 W=5.15E-6

