R1 (net2 net18) R=1.5E5
T2 (0 vdd! vdd! 0) nfet L=4.98E-6 W=9.53E-6
T3 (net10 net3 net3 0) pfet L=0.44E-6 W=2.61E-6
T4 (net20 net6 net6 0) nfet L=4.03E-6 W=3.17E-6
R5 (net3 net28) R=7.3E3
T6 (net11 net15 net15 0) pfet L=6.56E-6 W=2.52E-6
T7 (net4 net8 net8 0) pfet L=7.33E-6 W=4.62E-6
T8 (net7 net18 net18 0) nfet L=2.96E-6 W=2.41E-6
T9 (net10 net16 net16 0) pfet L=7.47E-6 W=4.87E-6
T10 (net20 net29 net29 0) pfet L=9.58E-6 W=5.07E-6
T11 (net24 net2 net2 0) pfet L=8.23E-6 W=5.46E-6
R12 (net30 net26) R=8.4E4
T13 (net28 net26 net26 0) nfet L=5.11E-6 W=1.35E-6
C14 (net23 net18) C=8.5E-14
T15 (net33 net12 net12 0) pfet L=2.54E-6 W=6.78E-6
T16 (net13 vdd! vdd! 0) nfet L=9.99E-6 W=6.42E-6
R17 (net28 net23) R=8.6E6
R18 (net12 net1) R=5.4E2
C19 (net5 net19) C=3.7E-12
R20 (net3 net18) R=4.7E5
C21 (net29 net19) C=9.2E-14
R22 (net8 net10) R=8.0E5
R23 (net4 vdd!) R=4.2E1
R24 (net11 net7) R=7.1E0
R25 (net14 net24) R=4.1E6
T26 (net1 net7 net7 0) pfet L=5.76E-6 W=8.23E-6
T27 (net1 net23 net23 0) pfet L=4.58E-6 W=7.32E-6
T28 (vdd! net17 net17 0) nfet L=0.40E-6 W=8.54E-6
T29 (net12 net11 net11 0) nfet L=7.65E-6 W=3.36E-6
T30 (net13 net6 net6 0) nfet L=1.08E-6 W=7.40E-6
T31 (0 net24 net24 0) pfet L=4.06E-6 W=3.28E-6
T32 (vdd! net27 net27 0) pfet L=4.94E-6 W=9.66E-6
T33 (0 net33 net33 0) pfet L=2.58E-6 W=1.84E-6
R34 (net23 net20) R=1.8E2
T35 (net21 net14 net14 0) nfet L=4.01E-6 W=7.96E-6
R36 (net33 net2) R=5.6E0
C37 (net9 net25) C=1.4E-7
T38 (net22 net19 net19 0) nfet L=7.53E-6 W=6.98E-6
R39 (0 net31) R=0.1E5
T40 (net27 net3 net3 0) nfet L=3.91E-6 W=6.96E-6
C41 (net2 net14) C=4.3E-14
R42 (net19 vdd!) R=9.3E0
T43 (net15 net25 net25 0) nfet L=5.22E-6 W=4.00E-6
R44 (net4 net11) R=3.4E3
C45 (net21 net28) C=3.7E-12
C46 (net13 vdd!) C=2.5E-13
T47 (net6 net23 net23 0) nfet L=3.60E-6 W=5.31E-6
T48 (net20 net32 net32 0) nfet L=5.04E-6 W=1.88E-6
R49 (net8 0) R=2.0E1
T50 (net22 net9 net9 0) nfet L=4.94E-6 W=1.29E-6
C51 (net1 net2) C=1.7E-8
R52 (net25 net31) R=0.1E4
T53 (net4 net19 net19 0) pfet L=2.61E-6 W=4.44E-6
T54 (net25 net33 net33 0) nfet L=3.88E-6 W=6.41E-6
T55 (net2 net4 net4 0) pfet L=1.64E-6 W=0.13E-6
T56 (0 net4 net4 0) nfet L=1.93E-6 W=0.55E-6
T57 (net32 net9 net9 0) pfet L=7.56E-6 W=2.45E-6
R58 (net12 net11) R=3.8E6
R59 (net4 net20) R=2.9E4
C60 (net6 vdd!) C=2.5E-7
C61 (net27 net6) C=1.7E-9
T62 (net16 net3 net3 0) nfet L=9.76E-6 W=9.45E-6
R63 (net3 net4) R=3.1E1
T64 (net19 net25 net25 0) nfet L=8.52E-6 W=9.64E-6
T65 (net18 net32 net32 0) pfet L=9.78E-6 W=6.06E-6
C66 (net4 net5) C=0.6E-6
T67 (net29 net29 net29 0) nfet L=6.40E-6 W=5.71E-6
C68 (net23 net19) C=5.3E-5
T69 (net24 net6 net6 0) pfet L=0.61E-6 W=2.82E-6
C70 (net5 vdd!) C=2.4E-12
C71 (net26 net3) C=5.2E-10
T72 (net11 net14 net14 0) nfet L=9.98E-6 W=0.80E-6
C73 (net32 net20) C=3.5E-11
T74 (net3 net2 net2 0) pfet L=9.65E-6 W=6.83E-6
R75 (net28 net4) R=3.3E5

