T1 (net74 net8 net8 0) pfet L=9.42E-6 W=1.02E-6
T2 (0 0 0 0) pfet L=4.00E-6 W=4.96E-6
R3 (net117 net64) R=8.8E1
T4 (net45 vdd! vdd! 0) nfet L=3.91E-6 W=8.25E-6
T5 (net101 net106 net106 0) pfet L=9.73E-6 W=2.82E-6
T6 (net78 net116 net116 0) pfet L=1.64E-6 W=0.85E-6
R7 (net4 0) R=1.1E4
C8 (net12 net63) C=6.2E-11
T9 (0 net106 net106 0) pfet L=1.75E-6 W=9.41E-6
T10 (net38 net119 net119 0) pfet L=4.28E-6 W=2.07E-6
C11 (net14 net117) C=6.6E-9
R12 (net99 net81) R=5.0E5
T13 (net47 net41 net41 0) pfet L=5.70E-6 W=2.24E-6
R14 (net22 0) R=4.3E4
T15 (net29 net18 net18 0) pfet L=0.25E-6 W=8.76E-6
T16 (net81 net62 net62 0) nfet L=5.94E-6 W=6.09E-6
R17 (net27 vdd!) R=2.4E1
T18 (net1 net34 net34 0) pfet L=1.93E-6 W=0.63E-6
T19 (net91 net67 net67 0) pfet L=2.73E-6 W=5.13E-6
T20 (net116 net64 net64 0) pfet L=7.07E-6 W=8.61E-6
C21 (net46 net98) C=2.5E-14
R22 (net33 net107) R=5.5E2
C23 (net113 net62) C=2.1E-11
T24 (net118 net92 net92 0) pfet L=6.07E-6 W=2.82E-6
C25 (net8 net16) C=1.3E-11
C26 (net15 net44) C=1.4E-13
R27 (net64 vdd!) R=7.6E6
C28 (net75 net51) C=9.2E-10
C29 (net105 net56) C=1.0E-10
T30 (net4 net105 net105 0) pfet L=9.51E-6 W=9.77E-6
T31 (net32 net53 net53 0) pfet L=3.96E-6 W=6.67E-6
R32 (net114 net2) R=0.1E5
R33 (net93 vdd!) R=7.0E0
C34 (net82 vdd!) C=2.2E-12
C35 (net53 net40) C=0.2E-8
T36 (net83 0 0 0) pfet L=1.58E-6 W=9.23E-6
T37 (net115 net72 net72 0) nfet L=0.12E-6 W=5.75E-6
C38 (net21 net110) C=1.3E-13
C39 (net3 net98) C=4.3E-12
C40 (net93 net7) C=8.7E-14
C41 (net72 net114) C=1.1E-13
C42 (net50 0) C=6.8E-6
R43 (net97 net51) R=4.0E6
C44 (net118 net15) C=2.2E-8
C45 (net123 net34) C=9.2E-11
C46 (net123 net72) C=3.2E-7
R47 (net117 net64) R=9.4E0
T48 (net5 net101 net101 0) pfet L=2.13E-6 W=4.02E-6
T49 (net9 net101 net101 0) nfet L=9.27E-6 W=8.69E-6
R50 (net30 net103) R=0.4E4
T51 (net5 net62 net62 0) nfet L=0.30E-6 W=1.51E-6
C52 (net47 net49) C=8.7E-6
T53 (net83 net114 net114 0) nfet L=4.66E-6 W=8.91E-6
T54 (net43 net111 net111 0) pfet L=3.33E-6 W=8.77E-6
C55 (0 net69) C=5.4E-12
T56 (net125 net54 net54 0) nfet L=3.71E-6 W=0.80E-6
C57 (net48 net89) C=4.6E-9
C58 (vdd! net37) C=8.7E-12
C59 (net100 net27) C=1.8E-12
R60 (net100 net54) R=4.9E6
R61 (net74 net96) R=2.3E3
T62 (net81 net38 net38 0) pfet L=4.35E-6 W=0.22E-6
R63 (net46 net102) R=1.6E3
C64 (net118 net103) C=7.3E-8
T65 (net2 0 0 0) pfet L=1.37E-6 W=9.88E-6
T66 (net31 net16 net16 0) pfet L=5.67E-6 W=5.23E-6
C67 (net4 net112) C=1.8E-8
C68 (net22 net52) C=5.3E-13
T69 (net26 net5 net5 0) pfet L=9.14E-6 W=5.46E-6
C70 (net60 net12) C=2.3E-8
T71 (net110 net76 net76 0) pfet L=2.34E-6 W=7.08E-6
C72 (net28 net75) C=6.8E-7
T73 (net115 net58 net58 0) pfet L=3.91E-6 W=0.13E-6
T74 (net94 net24 net24 0) pfet L=2.32E-6 W=6.33E-6
T75 (net79 net27 net27 0) nfet L=7.38E-6 W=2.69E-6
C76 (net58 0) C=2.3E-14
C77 (net88 net58) C=3.1E-10
T78 (vdd! net22 net22 0) nfet L=5.29E-6 W=0.48E-6
R79 (net98 net108) R=7.9E1
R80 (net71 vdd!) R=1.7E3
T81 (net110 net33 net33 0) pfet L=6.48E-6 W=9.18E-6
T82 (net80 net42 net42 0) pfet L=6.19E-6 W=1.02E-6
T83 (net61 net108 net108 0) nfet L=4.33E-6 W=0.54E-6
T84 (net23 net46 net46 0) pfet L=4.11E-6 W=6.91E-6
T85 (net110 0 0 0) pfet L=3.83E-6 W=5.57E-6
C86 (net88 net94) C=8.7E-9
T87 (net126 net98 net98 0) nfet L=1.34E-6 W=1.39E-6
R88 (net114 net44) R=7.8E6
T89 (net101 vdd! vdd! 0) pfet L=7.91E-6 W=2.14E-6
T90 (net26 net108 net108 0) pfet L=6.09E-6 W=4.81E-6
C91 (net37 net72) C=5.6E-5
T92 (0 vdd! vdd! 0) nfet L=2.67E-6 W=4.90E-6
T93 (net18 net13 net13 0) nfet L=2.91E-6 W=3.37E-6
T94 (net93 net5 net5 0) nfet L=9.60E-6 W=1.48E-6
R95 (net52 net112) R=9.3E1
T96 (net79 vdd! vdd! 0) pfet L=5.88E-6 W=2.03E-6
R97 (net94 net14) R=4.8E6
R98 (vdd! net13) R=6.3E5
T99 (net16 net87 net87 0) pfet L=0.12E-6 W=2.53E-6
C100 (net117 net63) C=8.1E-9
T101 (net103 net122 net122 0) nfet L=1.44E-6 W=1.09E-6
T102 (net39 net37 net37 0) pfet L=5.01E-6 W=0.38E-6
T103 (net126 vdd! vdd! 0) nfet L=8.37E-6 W=2.92E-6
C104 (net118 0) C=9.2E-11
C105 (net46 net45) C=4.8E-10
T106 (0 net108 net108 0) pfet L=4.50E-6 W=4.29E-6
R107 (net29 net58) R=4.6E0
T108 (net18 net97 net97 0) pfet L=5.54E-6 W=1.05E-6
C109 (vdd! net74) C=8.8E-5
T110 (net7 net7 net7 0) pfet L=1.77E-6 W=5.44E-6
C111 (0 net79) C=3.5E-13
R112 (net70 net5) R=2.7E0
T113 (net105 net52 net52 0) pfet L=2.25E-6 W=3.41E-6
T114 (net21 net110 net110 0) pfet L=0.38E-6 W=1.16E-6
T115 (net113 net31 net31 0) pfet L=1.52E-6 W=5.62E-6
T116 (net21 net60 net60 0) nfet L=0.97E-6 W=1.09E-6
R117 (net56 net69) R=7.2E5
C118 (net106 vdd!) C=4.8E-9
T119 (net43 net35 net35 0) pfet L=2.63E-6 W=0.47E-6
C120 (net38 net72) C=3.5E-7
C121 (net12 net62) C=5.1E-8
R122 (net102 net93) R=7.3E3
T123 (net32 net34 net34 0) pfet L=2.13E-6 W=9.29E-6
T124 (net21 net6 net6 0) nfet L=2.89E-6 W=1.14E-6
R125 (net117 net101) R=4.4E0
T126 (net82 net21 net21 0) pfet L=0.48E-6 W=7.52E-6
R127 (vdd! net106) R=1.0E0
R128 (net112 net93) R=9.3E2
C129 (net104 net26) C=8.7E-5
T130 (net82 net62 net62 0) nfet L=1.67E-6 W=8.73E-6
C131 (net104 net46) C=9.1E-5
T132 (net102 net64 net64 0) nfet L=4.61E-6 W=4.16E-6
T133 (0 net10 net10 0) pfet L=7.63E-6 W=0.40E-6
C134 (net81 net79) C=3.8E-6
T135 (net6 vdd! vdd! 0) nfet L=1.00E-6 W=5.83E-6
T136 (net72 net94 net94 0) nfet L=9.67E-6 W=6.51E-6
T137 (net65 net28 net28 0) nfet L=1.17E-6 W=1.73E-6
T138 (net91 net126 net126 0) nfet L=0.52E-6 W=2.09E-6
C139 (net126 net64) C=9.5E-12
R140 (net80 net49) R=5.5E2
T141 (net26 net42 net42 0) pfet L=4.68E-6 W=8.48E-6
T142 (net99 net9 net9 0) nfet L=1.52E-6 W=7.41E-6
T143 (net37 net3 net3 0) pfet L=4.08E-6 W=9.37E-6
T144 (net116 net59 net59 0) nfet L=8.26E-6 W=8.51E-6
R145 (net20 net17) R=8.0E2
R146 (net51 net99) R=6.3E3
T147 (net124 net67 net67 0) nfet L=1.17E-6 W=1.63E-6
C148 (net54 net100) C=4.6E-8
T149 (net16 net19 net19 0) pfet L=9.87E-6 W=5.78E-6
R150 (net97 net107) R=6.1E2
T151 (net43 net6 net6 0) pfet L=1.97E-6 W=4.47E-6
R152 (vdd! net79) R=4.1E2
C153 (vdd! net106) C=2.1E-7
R154 (net89 net88) R=5.2E0
T155 (net76 net28 net28 0) nfet L=5.79E-6 W=9.92E-6
C156 (net20 net33) C=2.6E-6
T157 (net94 net122 net122 0) nfet L=9.93E-6 W=3.61E-6
R158 (net24 net27) R=1.6E1
C159 (net98 net76) C=9.6E-11
R160 (net111 vdd!) R=8.5E1
R161 (0 net41) R=6.6E5
T162 (net59 net44 net44 0) nfet L=4.24E-6 W=9.43E-6
R163 (net78 net39) R=0.3E1
C164 (net85 net8) C=8.3E-9
T165 (net126 net59 net59 0) pfet L=2.82E-6 W=1.35E-6
T166 (net60 0 0 0) pfet L=3.62E-6 W=3.97E-6
R167 (net65 net108) R=8.5E2
T168 (0 net20 net20 0) nfet L=4.17E-6 W=2.10E-6
T169 (net108 net45 net45 0) pfet L=6.68E-6 W=4.95E-6

