T1 (net22 net2 net2 0) pfet L=1.13E-6 W=1.03E-6
R2 (net20 net16) R=3.0E2
C3 (vdd! net9) C=6.3E-6
C4 (net8 net34) C=5.2E-11
T5 (net22 net21 net21 0) nfet L=0.23E-6 W=8.18E-6
R6 (net12 net26) R=0.4E0
T7 (net6 net31 net31 0) pfet L=4.33E-6 W=2.08E-6
C8 (net5 net32) C=5.4E-8
C9 (net19 net7) C=3.8E-12
R10 (net3 net25) R=9.5E5
T11 (net6 net17 net17 0) nfet L=3.00E-6 W=1.27E-6
C12 (vdd! net2) C=2.7E-7
C13 (net23 net32) C=7.3E-9
C14 (net30 net26) C=8.9E-11
T15 (0 net12 net12 0) nfet L=0.33E-6 W=9.37E-6
T16 (net11 net14 net14 0) pfet L=5.78E-6 W=0.56E-6
C17 (net19 net31) C=1.3E-9
T18 (net20 net22 net22 0) nfet L=3.34E-6 W=0.76E-6
C19 (net30 net17) C=2.6E-13
C20 (net35 net20) C=9.5E-6
T21 (net22 net9 net9 0) nfet L=6.55E-6 W=4.32E-6
C22 (net26 net14) C=3.2E-12
C23 (net7 net4) C=7.7E-6
C24 (net5 net1) C=0.5E-13
T25 (net9 vdd! vdd! 0) nfet L=5.88E-6 W=3.69E-6
T26 (net17 net29 net29 0) pfet L=8.21E-6 W=2.45E-6
C27 (net25 net14) C=1.3E-8
R28 (0 net27) R=4.8E0
T29 (net23 net5 net5 0) nfet L=7.56E-6 W=1.26E-6
T30 (net33 net23 net23 0) pfet L=8.04E-6 W=9.35E-6
T31 (net30 net9 net9 0) nfet L=4.74E-6 W=9.29E-6
R32 (net27 net16) R=6.8E6
C33 (net12 net7) C=7.4E-13
R34 (net4 net7) R=1.4E1
T35 (net30 vdd! vdd! 0) nfet L=9.26E-6 W=1.62E-6
T36 (net8 net32 net32 0) nfet L=7.19E-6 W=8.41E-6
T37 (net31 net33 net33 0) nfet L=5.17E-6 W=5.60E-6
R38 (net11 net27) R=4.7E1
T39 (net9 net7 net7 0) nfet L=3.63E-6 W=8.44E-6
T40 (net31 net18 net18 0) nfet L=4.47E-6 W=6.76E-6
T41 (net6 net16 net16 0) pfet L=6.85E-6 W=9.33E-6
T42 (net17 net7 net7 0) pfet L=6.42E-6 W=3.10E-6
T43 (net29 net9 net9 0) nfet L=2.78E-6 W=4.14E-6
C44 (net29 net30) C=4.7E-8
R45 (net19 net7) R=8.3E1
R46 (0 vdd!) R=10.0E4
T47 (net17 net3 net3 0) nfet L=9.94E-6 W=5.74E-6
T48 (net12 net29 net29 0) nfet L=0.76E-6 W=5.79E-6
T49 (net15 net24 net24 0) nfet L=8.77E-6 W=0.90E-6
C50 (net24 net20) C=2.5E-9
T51 (net6 net1 net1 0) nfet L=5.27E-6 W=8.53E-6
R52 (net29 net20) R=5.2E6
T53 (net25 net34 net34 0) pfet L=0.29E-6 W=0.28E-6
R54 (net20 net33) R=5.5E4
T55 (net31 net30 net30 0) nfet L=6.34E-6 W=8.17E-6
C56 (net17 net21) C=4.2E-14
T57 (net11 net30 net30 0) nfet L=1.94E-6 W=1.94E-6
R58 (net28 net26) R=1.4E1
R59 (net1 net25) R=7.9E2
R60 (net2 vdd!) R=5.0E3
C61 (net26 net3) C=1.3E-7
C62 (net25 net21) C=5.3E-12
C63 (net20 net29) C=1.5E-12
R64 (0 net21) R=8.3E5
T65 (net22 net3 net3 0) nfet L=3.28E-6 W=1.31E-6
T66 (net22 net23 net23 0) nfet L=4.17E-6 W=6.67E-6
C67 (net32 net27) C=2.4E-11
T68 (net14 net4 net4 0) pfet L=8.41E-6 W=1.21E-6
T69 (net20 net4 net4 0) pfet L=9.48E-6 W=7.68E-6
C70 (net3 net24) C=4.8E-13
R71 (net32 0) R=0.2E5
T72 (vdd! net26 net26 0) pfet L=7.53E-6 W=4.75E-6
R73 (net28 net5) R=3.4E5
C74 (net20 net22) C=8.3E-8
T75 (net23 vdd! vdd! 0) nfet L=0.32E-6 W=4.94E-6
C76 (net15 net35) C=5.7E-8
T77 (net2 net33 net33 0) pfet L=7.66E-6 W=2.56E-6
T78 (net26 net31 net31 0) nfet L=0.63E-6 W=4.84E-6
R79 (net20 net18) R=1.8E1
T80 (net20 net31 net31 0) nfet L=8.58E-6 W=8.03E-6
C81 (net6 net10) C=5.1E-7
R82 (net30 vdd!) R=7.6E1
T83 (net14 net28 net28 0) nfet L=7.93E-6 W=2.07E-6
C84 (net27 net16) C=0.3E-10
T85 (net27 net18 net18 0) nfet L=2.29E-6 W=3.82E-6
T86 (net34 net34 net34 0) pfet L=1.45E-6 W=9.85E-6
R87 (net8 0) R=4.9E2
C88 (net21 net32) C=2.6E-9
C89 (net18 net9) C=0.9E-9
T90 (net25 net9 net9 0) pfet L=8.46E-6 W=5.73E-6
T91 (0 vdd! vdd! 0) nfet L=0.78E-6 W=7.08E-6
R92 (net4 net31) R=7.1E1
T93 (net6 net24 net24 0) pfet L=7.29E-6 W=8.71E-6
T94 (net19 net24 net24 0) nfet L=6.71E-6 W=3.90E-6
R95 (net8 net29) R=1.6E2
T96 (net13 net15 net15 0) pfet L=1.03E-6 W=7.24E-6
R97 (net11 net6) R=0.3E4
T98 (net5 0 0 0) pfet L=1.54E-6 W=5.30E-6
T99 (net4 net27 net27 0) nfet L=4.81E-6 W=8.57E-6
T100 (net27 net31 net31 0) nfet L=1.56E-6 W=8.64E-6
R101 (net5 net30) R=2.6E6
R102 (net33 net12) R=0.4E5
T103 (net7 net29 net29 0) nfet L=0.58E-6 W=3.47E-6
R104 (net16 net35) R=5.0E0
C105 (net32 net3) C=7.3E-5
R106 (net27 net21) R=7.2E1

