R1 (net14 net24) R=8.6E4
T2 (net23 net25 net25 0) pfet L=2.20E-6 W=3.04E-6
R3 (net12 net24) R=2.1E2
R4 (net17 net6) R=8.0E1
T5 (net13 net18 net18 0) nfet L=9.50E-6 W=7.76E-6
T6 (net23 net4 net4 0) nfet L=8.34E-6 W=0.99E-6
C7 (net9 net16) C=6.0E-14
R8 (net18 net13) R=4.2E2
R9 (net17 net3) R=8.4E1
T10 (net24 net4 net4 0) pfet L=2.72E-6 W=6.00E-6
R11 (net10 net7) R=0.2E4
C12 (net8 net23) C=9.1E-10
C13 (net14 0) C=9.5E-14
T14 (net21 net5 net5 0) pfet L=5.10E-6 W=0.72E-6
R15 (net5 net21) R=8.7E0
R16 (net18 net11) R=8.9E2
R17 (net9 0) R=4.6E6
T18 (net2 net13 net13 0) nfet L=2.59E-6 W=3.61E-6
R19 (net21 net10) R=6.8E4
C20 (net3 net2) C=9.1E-11
T21 (net22 net17 net17 0) pfet L=0.75E-6 W=9.95E-6
T22 (net3 vdd! vdd! 0) pfet L=7.97E-6 W=9.20E-6
T23 (net3 net7 net7 0) pfet L=9.67E-6 W=6.43E-6
T24 (net11 0 0 0) pfet L=6.43E-6 W=3.15E-6
R25 (net12 net9) R=3.5E4
T26 (net4 net16 net16 0) nfet L=3.11E-6 W=2.42E-6
T27 (net5 net25 net25 0) pfet L=9.78E-6 W=8.65E-6
C28 (net19 net23) C=2.1E-14
T29 (net18 net22 net22 0) nfet L=0.86E-6 W=2.77E-6
T30 (net21 net3 net3 0) nfet L=3.66E-6 W=2.95E-6
T31 (net23 net18 net18 0) pfet L=1.89E-6 W=7.77E-6
T32 (net16 net13 net13 0) nfet L=1.36E-6 W=1.23E-6
R33 (net8 net17) R=3.7E3
C34 (net15 net13) C=6.3E-14
C35 (vdd! net25) C=6.3E-7
T36 (net1 net12 net12 0) pfet L=5.56E-6 W=4.36E-6
T37 (net22 net2 net2 0) nfet L=2.11E-6 W=3.11E-6
T38 (net4 net19 net19 0) nfet L=6.04E-6 W=4.94E-6
T39 (net2 net15 net15 0) nfet L=4.95E-6 W=5.75E-6
C40 (net25 net12) C=6.1E-5
C41 (net7 net18) C=6.4E-12
C42 (net1 net14) C=8.8E-10
T43 (net1 net2 net2 0) pfet L=4.19E-6 W=9.52E-6
R44 (net19 net18) R=5.1E5
R45 (0 net20) R=1.9E6
T46 (net21 vdd! vdd! 0) pfet L=7.03E-6 W=5.37E-6
R47 (net12 net20) R=8.8E6
R48 (net2 0) R=7.3E1
C49 (net25 net15) C=5.7E-8
C50 (0 net22) C=8.1E-5
C51 (net13 vdd!) C=3.0E-5
T52 (net10 net25 net25 0) nfet L=0.83E-6 W=7.19E-6
R53 (net25 net1) R=1.9E5
T54 (0 net25 net25 0) pfet L=4.81E-6 W=8.04E-6
R55 (net14 net4) R=0.6E3
R56 (net18 net9) R=4.6E3
T57 (net3 net19 net19 0) nfet L=5.91E-6 W=6.25E-6
C58 (net24 net18) C=0.2E-12
C59 (net4 net6) C=8.4E-7
R60 (net3 net21) R=6.0E3
R61 (net6 0) R=3.2E2
C62 (net19 net6) C=0.4E-8
T63 (vdd! net18 net18 0) nfet L=1.69E-6 W=1.94E-6
R64 (net15 net8) R=6.4E1
R65 (net12 net20) R=2.6E0

